US08541429B2
Step 1. 3-methoxy-5,5-dimethyl-cyclohex-2-enone
A solution of 5,5-dimethyl-cyclohexane-1,3-dione (80.0 g, 0.57 mol) in anhydrous methanol (600 mL) was treated with a 1M solution of titanium chloride (TiCl4) in dichloromethane (17.2 mL). After stirring 1 hour at room temperature, the mixture was slowly poured into cold 5% NaHCO3 solution and extracted with diethyl ether (450 mL×6). The organic layers were collected, washed with brine, dried on Na2SO4 and evaporated to dryness affording the title compound (81.5 g, 92% yield) as a pale yellow oil.

reactant | 5,5-dimethyl-cyclohexane-1,3-dione | 0.57 mol, 80.0 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 600 mL | CO | CH4O
solvent | dichloromethane | 17.2 mL | ClCCl | CH2Cl2
catalyst | titanium chloride | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
product | 3-methoxy-5,5-dimethyl-cyclohex-2-enone | 81.5 g, 92% yield | COC1=CC(CC(C1)(C)C)=O | C9H14O2
